US05753664
3,5-Dimethyl-2-(4-(4-isonicotinoyloxymethylpiperidylcarbonyl)benzylthio)-4(3H)-quinazolinone
In DMF (15 ml) was dissolved 2-[4-(4-hydroxymethylpiperidylcarbonyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (415 mg), and following addition of isonicotinyl chloride hydrochloride (270 mg), triethylamine (0.40 ml) was added over 5 minutes. The mixture was stirred at room temperature for 3 hours, after which it was concentrated. The residue was washed with water, saturated aqueous NaHCO3 solution, and saturated aqueous NaCl solution in that order, dried, and concentrated. The residue was recrystallized from hexane/ethyl acetate to provide the title compound as colorless solid (241 mg).

reactant | 2-[4-(4-hydroxymethylpiperidylcarbonyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 415 mg | OCC1CCN(CC1)C(=O)C1=CC=C(CSC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C24H27N3O3S
reactant | isonicotinyl chloride hydrochloride | 270 mg | Cl.C(C1=CC=NC=C1)Cl
reactant | triethylamine | 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-(4-(4-isonicotinoyloxymethylpiperidylcarbonyl)benzylthio)-4(3H)-quinazolinone | 241 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(=O)N1CCC(CC1)COC(C1=CC=NC=C1)=O | C30H30N4O4S
